US08309721B2
8 ml of 1N hydrochloric acid are added to a solution of 0.7 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(3-hydroxypropyl)amino]benzoate in 10 ml of dioxane. The reaction mixture is heated at 100° C. in a microwave for 2 hours and then concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of dichloromethane and methanol (96/4 by volume), so as to give 190 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(3-hydroxypropyl)amino]benzoic acid in the form of a pale yellow powder the characteristics of which are the following:

reactant | hydrochloric acid | 1N, 8 ml | Cl | ClH
reactant | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(3-hydroxypropyl)amino]benzoate | 0.7 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NCCCO | C32H30N4O3
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(3-hydroxypropyl)amino]benzoic acid | 190 mg | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)O)C=C1)NCCCO | C28H22N4O3
